US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-3-[(4-amino-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (100 mg, 0.175 mmol) in bromoform (0.5 mL) and dichloromethane (1 mL) was added t-butyl nitrite (23 μL, d=0.867, 90% pure, 0.193 mmol). The resulting mixture was stirred at 50° C. for 1 h. An aliquot indicated completion of the reaction. The reaction crude was deposited on 2 prep-TLC plates eluted by dichloromethane to afford the title compound. LC-MS: 635.80 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 6:4 mixture of rotamers δ 7.84-7.88 (m, 1H), 7.67-7.74 (m, 2H), 7.60-7.63 (m, 1H), 7.51-7.57 (m, 1H), 7.38-7.42 (m, 1H), 7.19-7.23 (m, 1H), 7.11-7.16 (m, 1H), 7.09 (d, J=2.3 Hz, 0.6H), 7.03 (d, J=2.3 Hz, 0.4H), 5.66 (d, J=8.0 Hz, 0.4H), 5.55 (d, J=8.0 Hz, 0.6H), 4.86 (d, J=15.6 Hz, 0.6H), 4.70 (d, J=15.6 Hz, 0.4H), 3.77-4.00 (m, 2H), 2.87-2.95 (m, 1H), 1.20-1.28 (m, 6H), 0.53 (d, J=6.6 Hz, 1.2H), 0.45 (d, J=6.4 Hz, 1.8H).

reactant | (4S,5R)-3-[(4-amino-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.175 mmol, 100 mg | NC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)Cl)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C28H25ClF6N2O2
reactant | t-butyl nitrite | 0.193 mmol, 23 μL | N(=O)OC(C)(C)C | C4H9NO2
reactant | bromoform | 0.5 mL | C(Br)(Br)Br | CHBr3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-2′-chloro-5′-isopropylbiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)Br)C1=C(C=CC(=C1)C(C)C)Cl)C)(F)F | C28H23BrClF6NO2
